US09145441B2
Compound 119b. 1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Hydroxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-propionyl]-3-methyl-hexahydro-pyridazine-3-carboxylic acid
To a solution of 1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-propionyl]-3-methyl-hexahydro-pyridazine-3-carboxylic acid methyl ester (790 mg, 1.24 mmol) in tetrahydrofuran/water (60 mL, 5:1) at 0° C. was added lithium hydroxide monohydrate (380 mg, 9.04 mmol). After stirring at 0° C. for 5 h, the reaction was quenched with hydrochloric acid (1 M, 12 mL). The volatiles were removed in vacuo and residual acetic acid and methanol were azeotroped off with toluene (3×). The residue was partitioned between ethyl acetate and water. After separation of the layers, the aqueous phase was extracted with ethyl acetate (4×) and dichloromethane (5×). The combined organic layers were dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo to afford the title compound (668 mg, 93%) as a pale yellow solid and as a 1:1 mixture of diastereoisomers. LCMS (m/z) 582 [M+H], Tr=1.54 min.

reactant | 1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-acetoxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-propionyl]-3-methyl-hexahydro-pyridazine-3-carboxylic acid methyl ester | 1.24 mmol, 790 mg | COC(=O)C1(NN(CCC1)C([C@H](C)NC([C@H](C(C)C)NC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)C)=O)=O)=O)C | C34H47N5O7
reactant | lithium hydroxide monohydrate | 9.04 mmol, 380 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran water | 60 mL | O1CCCC1.O
product | 1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-Hydroxy-ethyl)-quinolin-7-yl]-2,2-dimethyl-but-3-enoylamino}-3-methyl-butyrylamino)-propionyl]-3-methyl-hexahydro-pyridazine-3-carboxylic acid | 668 mg, 93% | O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)N[C@H](C(=O)N[C@H](C(=O)N1NC(CCC1)(C(=O)O)C)C)C(C)C)(C)C | C31H43N5O6
